US07714044B2
24.8 g of 4-bromo-N-(2,6-diisopropylphenyl)naphthalene-1,8-dicarboximide and 7.5 g of copper(I) cyanide in 150 ml of N-methylpyrrolidone were heated at 210° C. for 4 hours. After cooling, water was added to the reaction mixture, producing a precipitate. The precipitate was filtered off, washed and dried. Column chromatography of the precipitate on silica gel (eluent: dichloromethane) gave 15.6 g of 4-cyano-N-(2,6-diisopropylphenyl)naphthalene-1,8-dicarboximide having a melting point of 291° C.

reactant | 4-bromo-N-(2,6-diisopropylphenyl)naphthalene-1,8-dicarboximide | 24.8 g | BrC1=CC=C2C3=C(C=CC=C13)C(N(C2=O)C2=C(C=CC=C2C(C)C)C(C)C)=O | C24H22BrNO2
reactant | copper(I) cyanide | 7.5 g | [Cu]C#N
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 150 ml | CN1C(CCC1)=O | C5H9NO
product | 4-cyano-N-(2,6-diisopropylphenyl)naphthalene-1,8-dicarboximide | 15.6 g | C(#N)C1=CC=C2C3=C(C=CC=C13)C(N(C2=O)C2=C(C=CC=C2C(C)C)C(C)C)=O | C25H22N2O2
